Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
elevated blood pressure
 
Major Surgical or Invasive Procedure:
cesarean delivery

 
History of Present Illness:
___ yo G1P1 at 32+0 WGA who was found to have elevated BP in
the office today and was sent to OB triage for PIH eval.  Denies 
h/a, vision changes, RUQ pain or epigastric pain.  Denies 
vaginal bleeding, contractions and leaking of fluid vaginally.  
+FM.

 
Past Medical History:
OB Hx:G1P0
Gyn Hx: h/o benign breast cyst removed R breast
PMH: ulcerative colitis
Surg Hx: breast bx

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
Gen: NAD
VS: T  98.1   BP  156/96, 163/89, ___, 162/97, 
160/87     HR   59    RR 18
CV: rrr w/o m/g/r
Chest: CTA B
Abd: gravid, soft, nontender
Back: - CVAT
Ext: -edema B
SVE: deferred
SSE: deferred
EFM: 140 ___, mod variability, +accels, no decels, reactive.
Toco: no contractions
TAUS today: breech, + fetal cardiac motion seen, BPP ___ (-2
breatheing), AFI 13.2 

On discharge:
VS wnl, afebrile
General: NAD, comfortable
CV: RRR, no m/r/g
Lungs: CTAB
Abdomen: soft, NTND, fundus firm below umbilicus
Ext: no edema, no tenderness

 
Pertinent Results:
___ 12:09PM BLOOD WBC-11.9* RBC-4.32 Hgb-13.1 Hct-38.4 
MCV-89 MCH-30.3 MCHC-34.2 RDW-13.9 Plt ___
___ 12:09PM BLOOD Creat-0.6
___ 12:09PM BLOOD ALT-19 AST-29 TotBili-0.3
___ 12:09PM BLOOD UricAcd-5.2
___ 12:09PM BLOOD BILE ACIDS-
CHOLIC ACID                   5.3  H              3.1 OR LESS 
umol/L
DEOXYCHOLIC ACID              1.5                 7.3 OR LESS 
umol/L
CHENODEOXYCHOLIC ACID         3.6                 9.9 OR LESS 
umol/L
TOTAL BILE ACIDS              10.4                4.5-19.2 
umol/L
     
___ 12:05PM URINE Color-Straw Appear-Clear Sp ___
___ 12:05PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 04:30PM URINE pH-6 Hours-24 Volume-2950 Creat-40 
TotProt-9 Prot/Cr-0.2
___ 12:05PM URINE Hours-RANDOM Creat-35 TotProt-10 
Prot/Cr-0.3*
___ 04:30PM URINE 24Creat-1180 24Prot-266

Pathology:
___ placenta, 277 g, less than ___ percentile for 
gestational age of 32 weeks (A-F):
- Unremarkable fetal membranes and cord.
- Chorionic villi with increased syncytial knots.
 
Brief Hospital Course:
This patient is a ___, G1, P0, who presented for 
evaluation with elevated blood pressure on ___, and was 
admitted to the ___ service for
monitoring and a 24-hour urine collection.  A 24-hour urine 
protein was negative in terms of preeclampsia evaluation; 
however, she was diagnosed with PPROM on the morning of ___.  
There was no bleeding to suggest abruption.  Latency antibiotics 
were started.  In the early morning of ___, the patient 
developed painful contractions q.5 minutes and was examined and 
found to be 4 cm dilated, in spontaneous labor. Fetal status was 
reassuring; however, breech presentation was
known.  The decision was made to proceed with a primary cesarean 
section for delivery secondary to breech presentation and 
spontaneous labor. Primary cesarean section was performed on 
___. Please see operative report for full details. 

Her post-partum course was complicated by elevated blood 
pressures to 180s/80-90s. She was started on nifedipine 30 mg CR 
on ___. Her blood pressures improved. Her post-partum course 
was otherwise uncomplicated, and she was discharged home on 
___ with outpatient follow up scheduled. 

 
Medications on Admission:
PNV, mercaptopurine 50mg qd, Canasa 1000mg PR, Lialda 1.2gm 
delayed release 3 tabs daily.

 
Discharge Medications:
1. Breast pump
Hospital grade breast pump for maternal infant separation
2. NIFEdipine CR 30 mg PO DAILY 
RX *nifedipine [Procardia XL] 30 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*1
3. Mesalamine (Rectal) 1000 mg PR QHS UC 
4. Mercaptopurine 50 mg PO DAILY UC 
5. ___ *NF* (mesalamine) 3 TAB ORAL DAILY UC 
6. Lia___ *NF* (mesalamine) 3 TAB ORAL DAILY UC 
7. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*45 Tablet Refills:*0
8. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*0
9. Codeine Sulfate ___ mg PO Q6H:PRN pain 
RX *codeine sulfate 30 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cesarean delivery
gestational hypertension
liveborn infant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see printed instructions
 
Followup Instructions:
___